US09085577B2
4-(4-Bromo-2-fluoro-phenoxy)-2-ethyl-pyridine (D55)
To a solution of 2-fluoro-4-bromophenol (0.576 ml, 5.258 mmol) in DMSO (8 ml) was added K2CO3 (1.451 g, 10.516 mmol) and 2-ethyl-4-nitropyridine [CAS. 101860-96-2] (0.800 g, 5.258 mmol). The reaction mixture was heated at 100° C. for 2 days. Then the reaction mixture was refilled with 2-fluoro-4-bromophenol (0.115 ml) and heated at 100° C. for 6 hours more. After cooling to r.t. the reaction mixture was washed with NaHCO3 (aqueous sat. solution), then extracted with DCM. The organic layer was separated, dried (Na2SO4) evaporated to dryness. The crude product was purified by column chromatography (silica gel; DCM to heptane/DCM from 100/0 to 30/70 as eluent). The desired fractions were collected and concentrated in vacuo to yield intermediate compound D55 (0.985 g, 63%).

reactant | 2-fluoro-4-bromophenol | 5.258 mmol, 0.576 ml | FC1=C(C=CC(=C1)Br)O | C6H4BrFO
reactant | K2CO3 | 10.516 mmol, 1.451 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-ethyl-4-nitropyridine | 5.258 mmol, 0.800 g | C(C)C1=NC=CC(=C1)[N+](=O)[O-] | C7H8N2O2
reactant | 2-fluoro-4-bromophenol | 0.115 ml | FC1=C(C=CC(=C1)Br)O | C6H4BrFO
solvent | DMSO | 8 ml | CS(=O)C | C2H6OS
product | 4-(4-Bromo-2-fluoro-phenoxy)-2-ethyl-pyridine | BrC1=CC(=C(OC2=CC(=NC=C2)CC)C=C1)F | C13H11BrFNO
